US07964625B2
100 mmol 2-fluoroaniline and 50 mmol diethyl malonate were put together and stirred overnight at 170° C. The formed ethanol was distilled off directly (100 mmol≡6.6 mL) on a stream of nitrogen. N1,N3-di(2-fluoro-phenyl)-malonamide was formed as one solid block. The reaction was cooled and EtOAc was added. The product had to be crushed with a mortar, because it resembled very hard brick. The crushed material was stirred in EtOAc and filtered. EtOAc added was added twice and the mixture was stirred and filtered each time. 9.9 g N1,N3-di(2-fluoro-phenyl)-malonamide was obtained (yield 68.2%, purity 99.3%)

reactant | 2-fluoroaniline | 100 mmol | FC1=C(N)C=CC=C1 | C6H6FN
reactant | diethyl malonate | 50 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N1,N3-di(2-fluoro-phenyl)-malonamide | FC1=C(C=CC=C1)NC(CC(=O)NC1=C(C=CC=C1)F)=O | C15H12F2N2O2
